US05144048
A mixture of diethyl L-tartrate (309 g, 1.5 mol), ethyl vanillin (166 g, 1 mol), toluene (2 L) and p-toluenesulfonic acid (5 g, 0.026 mol) was heated at 115°-116° C. for 24 hours under a nitrogen atmosphere. During the reaction, water was removed by azeotropic distillation via a Dean-Stark trap. The mixture was washed sequentially with saturated sodium bicarbonate solution (500 mL), brine (2×1 L) and dried over sodium sulfate. The solvent was evaporated under reduced pressure and the solid obtained was recrystallized from isopropanol to provide 120 g (34% yield) of (4R,5R)-2-(3-ethoxy-4-hydroxy-phenyl)-4,5-dicarboethoxy-1,3-dioxolane, mp 78°-80° C., [α]D25 -38.0° (c,1.0; methanol). 1H-NMR (CDCl3) δ7.17 (1H, d,J=1.8 Hz), 7.06 (1H,dd,J=1.8 Hz and 8.10 Hz), 6.91 (1H,d,J =8.2 Hz), 6.07 (1H,s), 5.83 (1H,s), 4.91, (1H,d,J=4.0 Hz), 4.80 (1H,d,J=4.0 Hz), 4.37-4.25 (4H, 2q, overlapping, J=7.2 Hz), 4.15 (2H,q,J=7.0 Hz), 1.45 (3H,t,J=7.0 Hz), 1.38-1.29 (6H,2t, overlapping J=7.2 Hz). IR (KBr) 3390, 2980, 2930, 1735, 1600 cm-1. MS m/e (% abundance) 354 (55), 326 (3), 281 (40), 182 (85), 167 (85), 154 (100), 137 (70), 110 (30), 93 (10), 81 (10), 53 (5).

reactant | diethyl L-tartrate | 1.5 mol, 309 g | C(=O)(OCC)[C@H](O)[C@@H](O)C(=O)OCC | C8H14O6
reactant | ethyl vanillin | 1 mol, 166 g | O=CC1=CC(OCC)=C(O)C=C1 | C9H10O3
reactant | toluene | 2 L | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
catalyst | p-toluenesulfonic acid | 0.026 mol, 5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | CO | CH4O
product | (4R,5R)-2-(3-ethoxy-4-hydroxy-phenyl)-4,5-dicarboethoxy-1,3-dioxolane | 120 g, 34% yield | C(C)OC=1C=C(C=CC1O)C1O[C@H]([C@@H](O1)C(=O)OCC)C(=O)OCC | C17H22O8
